US08084620B2
Step 5 A solution of 5-(2-fluorophenyl)-2,3,4,9-tetrahydro-1H-carbazole-8-carboxylic acid (0.097 g, 0.314 mmol), EDC (0.072 g, 0.376 mmol) and HOBT (0.058 g, 0.376 mmol) in THF (2.5 mL) and DCM (0.6 mL) was treated with 28% aqueous ammonium hydroxide (0.073 mL, 1.88 mmol). The mixture was stirred overnight. More EDC (0.072 g, 0.376 mmol), HOBT (0.058 g, 0.376 mmol) and 28% aqueous ammonium hydroxide (0.073 mL, 1.88 mmol) were added, and the mixture was heated at 50° C. in a sealed tube for 2 days. The mixture was cooled to rt, dissolved in EtOAc, washed with NaHCO3 (aq) and brine, dried and concentrated. The residue was purified by column chromatography (eluting with a gradient from DCM to 98:2 DCM-methanol) to give 5-(2-fluorophenyl)-2,3,4,9-tetrahydro-1H-carbazole-8-carboxamide (0.030 g, 30%) as an off-white solid. Mass spectrum m/z 309.0 (M+H)+.

reactant | 5-(2-fluorophenyl)-2,3,4,9-tetrahydro-1H-carbazole-8-carboxylic acid | 0.314 mmol, 0.097 g | FC1=C(C=CC=C1)C1=C2C=3CCCCC3NC2=C(C=C1)C(=O)O | C19H16FNO2
reactant | EDC | 0.376 mmol, 0.072 g
reactant | HOBT | 0.376 mmol, 0.058 g | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | ammonium hydroxide | 1.88 mmol, 0.073 mL | [OH-].[NH4+]
reactant | EDC | 0.376 mmol, 0.072 g
reactant | HOBT | 0.376 mmol, 0.058 g | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | ammonium hydroxide | 1.88 mmol, 0.073 mL | [OH-].[NH4+]
solvent | THF | 2.5 mL | C1CCOC1 | C4H8O
solvent | DCM | 0.6 mL | C(Cl)Cl | CH2Cl2
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 5-(2-fluorophenyl)-2,3,4,9-tetrahydro-1H-carbazole-8-carboxamide | 0.030 g, 30% | FC1=C(C=CC=C1)C1=C2C=3CCCCC3NC2=C(C=C1)C(=O)N | C19H17FN2O
